US08420631B2
7-Chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-ynyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
In an oven dried flask degas DMF (20 mL) by gently bubbling nitrogen gas for 2 h. Add then 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.0 g, 2.35 mmoles), N-pent-4-ynyl-cyclopentylcarboxamide (842 mg, 4.7 mmoles), copper iodide (134 mg, 0.705 mmoles), triethylamine (4.7 mL), tetra-n-butylammonium iodide (2.6 g, 7.05 mmoles) and bis(triphenylphosphine)palladium(II) chloride (165 mg, 0.235 mmoles) and heat the resulting mixture at 80° C. under nitrogen atmosphere while stirring overnight. Concentrate the mixture in vacuo, and then filter through a short pad of Celite® eluting with EtOAc. Purify the residue by chromatography on silica gel eluting with dichloromethane/EtOAc/cyclohexane (3:5:1) to obtain the desired intermediate as an oil (726 mg, 68%). MS (ES+) m/z=455.1 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.35 mmoles, 1.0 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | N-pent-4-ynyl-cyclopentylcarboxamide | 4.7 mmoles, 842 mg | C(CCC#C)NC(=O)C1CCCC1 | C11H17NO
catalyst | tetra-n-butylammonium iodide | 7.05 mmoles, 2.6 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | copper iodide | 0.705 mmoles, 134 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.235 mmoles, 165 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 4.7 mL | C(C)N(CC)CC | C6H15N
product | 7-Chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-ynyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 726 mg, 68% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#CCCCNC(=O)C1CCCC1 | C23H26ClF3N2O2
